US08048878B2
Synthesis of (6R*,7S*,9aR*)-7-hydroxy-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one
A solution of (1aR*,2R*,6aR*,7aS*)-2-(3,4,5-trifluorophenyl)octahydro-1-oxa-2a-aza-cyclopropa[b]naphthalen-3-one (123 mg) in THF (4.0 mL) was cooled to −78° C. Lithium triethyl borohydride (1 M solution in THF, 620 μL) was added to the reaction solution, which was then stirred at 0° C. for one hour. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 125 mg of the title compound. The property values of the compound are as follows.

reactant | (1aR*,2R*,6aR*,7aS*)-2-(3,4,5-trifluorophenyl)octahydro-1-oxa-2a-aza-cyclopropa[b]naphthalen-3-one | 123 mg | FC=1C=C(C=C(C1F)F)[C@@H]1[C@@H]2[C@H](C[C@H]3CCCC(N13)=O)O2 | C15H14F3NO2
reactant | Lithium triethyl borohydride | 1 M, 620 μL | C(C)[BH-](CC)CC.[Li+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | (6R*,7S*,9aR*)-7-hydroxy-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one | 125 mg | O[C@@H]1[C@H](N2C(CCC[C@@H]2CC1)=O)C1=CC(=C(C(=C1)F)F)F | C15H16F3NO2
